US06403610B1
A solution of 3 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-acetate in 50 cm3 of dioxane to which had been added 5 cm3 of 5N aqueous sodium hydroxide solution was heated for 17 hours, with stirring and under an inert atmosphere, at a temperature in the region of 60° C. After cooling to approximately 20° C., the mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then the residue was taken up in 100 cm3 of dichloromethane and 5 cm3 of water. The mixture was acidified with an amount of citric acid sufficient to obtain a pH in the region of 4-5 and then dried over magnesium sulfate, filtered, and concentrated as above. The residual water was entrained by azeotroping in chloroform. After concentrating as above, the residue obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm; diameter 3.5 cm; silica volume 200 cm3), elution was carried out with a chloroform/methanol/28% aqueous ammonia (12/2/0.5 by volume) mixture, and approximately 60-cm3 fractions were collected. The fractions comprising the expected product were combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 40 cm3 of diethyl ether, filtered off, washed with 2 times 5 cm3 of ether, and dried under reduced pressure (5 kPa) at a temperature in the region of 20° C. and then in an oven under reduced pressure (10 Pa) at a temperature in the region of 40° C. 1.9 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-acetic acid were obtained in the form of a white solid.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-acetate | 3 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC=1SC=CC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H32N2O4S
reactant | sodium hydroxide | 5N, 5 cm3 | [OH-].[Na+]
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 40 cm3 | C(C)OCC | C4H10O
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-acetic acid | 1.9 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC=1SC=CC1)CC(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C27H30N2O4S
